US07989457B2
Step C. 3-{3-Fluoro-4-[1-(4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid ethyl ester
Combine 1-(4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-ol (0.257 g, 0.76 mmol) and 3-(3-Fluoro-4-hydroxy-benzoylamino)-propionic acid ethyl ester (0.150 g, 0.59 mmol) in toluene (3.0 mL). Add 1,1′(diazocarbonyl)dipiperidine (0.223 g, 0.88 mmol) followed by tributyl-phosphane (0.22 mL, 0.88 mmol) under inert atmosphere. Stir at room temperature for 18 hours. Dilute reaction with ethyl acetate filter and remove solvent under reduced pressure. Purify on silica gel chromatography (0-70% Ethyl acetate/hexanes gradient) to provide 0.305 g of title compound (90%).

reactant | 1-(4′-trifluoromethyl-biphenyl-4-yl)-heptan-1-ol | 0.76 mmol, 0.257 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(CCCCCC)O)(F)F | C20H23F3O
reactant | 3-(3-Fluoro-4-hydroxy-benzoylamino)-propionic acid ethyl ester | 0.59 mmol, 0.150 g | C(C)OC(CCNC(C1=CC(=C(C=C1)O)F)=O)=O | C12H14FNO4
reactant | tributyl-phosphane | 0.88 mmol, 0.22 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 3-{3-Fluoro-4-[1-(4′-trifluoromethyl-biphenyl-4-yl)-heptyloxy]-benzoylamino}-propionic acid ethyl ester | 0.305 g, 90% | C(C)OC(CCNC(C1=CC(=C(C=C1)OC(CCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)F)=O)=O | C32H35F4NO4
